* cdac_array_dut.spice -- regenerated netlist FRAGMENT (devices only) for
* design/cdac/cdac_array.sch (issue #53). NOT hand-edited: regenerate with,
* from the repo root:
*
*   source sim/env.sh
*   xschem -x -n -s -q --rcfile sim/xschemrc -o /tmp/xschem_out design/cdac/cdac_array.sch
*   grep -v '^\*\*' /tmp/xschem_out/cdac_array.spice | grep -v '^\.end$' \
*     > sim/sampling-cdac-handoff/testbench/cdac_array_dut.spice
*
* Every device is sky130_fd_pr__{n,p}fet_01v8 or sky130_fd_pr__cap_mim_m3_1
* (ratified 1.8V core flavor + MiM cap, DR-001).
*
* This experiment (sim/sampling-cdac-handoff/run_handoff.py) drives
* SELp0..8/SELn0..8 directly with ideal DC sources standing in for the SAR
* sequencer's DOUT<i> register (per design/sar_adc_top.sch's own
* SELp<i>=DOUT<i> / SELn<i>=NOT(DOUT<i>) wiring decision) left at a fixed
* "previous conversion" code throughout the SAMPLE phase under test -- the
* same testbench-only-ideal-driver precedent sim/cdac-array-transfer/'s own
* testbench already uses for SEL. VSS is tied to GND explicitly below (the
* fragment references VSS, not the global GND net, matching
* design/cdac/cdac_array.sch's own VSS ipin, which design/sar_adc_top.sch
* ties to GND via devices/gnd.sym at the matching pin position).
XCp0 BOT_p0 TOP_P sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=1 m=1
XMp0n BOT_p0 SELp0 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMp0p BOT_p0 SELp0 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCp1 BOT_p1 TOP_P sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=2 m=2
XMp1n BOT_p1 SELp1 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMp1p BOT_p1 SELp1 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCp2 BOT_p2 TOP_P sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=4 m=4
XMp2n BOT_p2 SELp2 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMp2p BOT_p2 SELp2 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCp3 BOT_p3 TOP_P sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=8 m=8
XMp3n BOT_p3 SELp3 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMp3p BOT_p3 SELp3 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCp4 BOT_p4 TOP_P sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=16 m=16
XMp4n BOT_p4 SELp4 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMp4p BOT_p4 SELp4 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCp5 BOT_p5 TOP_P sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=32 m=32
XMp5n BOT_p5 SELp5 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMp5p BOT_p5 SELp5 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCp6 BOT_p6 TOP_P sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=64 m=64
XMp6n BOT_p6 SELp6 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMp6p BOT_p6 SELp6 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCp7 BOT_p7 TOP_P sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=128 m=128
XMp7n BOT_p7 SELp7 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMp7p BOT_p7 SELp7 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCp8 BOT_p8 TOP_P sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=256 m=256
XMp8n BOT_p8 SELp8 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMp8p BOT_p8 SELp8 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCp_term VREFN TOP_P sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=1 m=1
XCn0 BOT_n0 TOP_N sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=1 m=1
XMn0n BOT_n0 SELn0 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMn0p BOT_n0 SELn0 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCn1 BOT_n1 TOP_N sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=2 m=2
XMn1n BOT_n1 SELn1 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMn1p BOT_n1 SELn1 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCn2 BOT_n2 TOP_N sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=4 m=4
XMn2n BOT_n2 SELn2 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMn2p BOT_n2 SELn2 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCn3 BOT_n3 TOP_N sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=8 m=8
XMn3n BOT_n3 SELn3 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMn3p BOT_n3 SELn3 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCn4 BOT_n4 TOP_N sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=16 m=16
XMn4n BOT_n4 SELn4 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMn4p BOT_n4 SELn4 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCn5 BOT_n5 TOP_N sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=32 m=32
XMn5n BOT_n5 SELn5 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMn5p BOT_n5 SELn5 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCn6 BOT_n6 TOP_N sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=64 m=64
XMn6n BOT_n6 SELn6 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMn6p BOT_n6 SELn6 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCn7 BOT_n7 TOP_N sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=128 m=128
XMn7n BOT_n7 SELn7 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMn7p BOT_n7 SELn7 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCn8 BOT_n8 TOP_N sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=256 m=256
XMn8n BOT_n8 SELn8 VREFN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMn8p BOT_n8 SELn8 VREFP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XCn_term VREFN TOP_N sky130_fd_pr__cap_mim_m3_1 W=1.8988 L=1.8988 MF=1 m=1
